US06743794B2
(Indan-2-ylamino)phenylacetic Acid Methyl Ester
To a solution of racemic α-bromophenylacetic acid methyl ester, 5.0 g (22.0 mmol) in 200 mL of tetrahydrofuran was added 3.4 mL (22.0 mmol) of triethylamine and 8.8 g (66.0 mmol) of 2-aminoindan. The reaction mixture was refluxed for four hours, cooled to ambient temperature and concentrated to dryness. The residue was partitioned between 20% isopropanol/chloroform and water. The mixture was washed with saturated sodium bicarbonate, washed with brine, dried over sodium sulfate, filtered and concentrated to dryness. The residue was purified by chromatography using chloroform as eluent and was concentrated to dryness to give a quantitative yield of the desired mixture of isomers as a tan, viscous oil. MS (ion spray) 282.2 (M+).

reactant | racemic α-bromophenylacetic acid methyl ester | COC(C(Br)C1=CC=CC=C1)=O | C9H9BrO2
reactant | triethylamine | 22.0 mmol, 3.4 mL | C(C)N(CC)CC | C6H15N
reactant | 2-aminoindan | 66.0 mmol, 8.8 g | NC1CC2=CC=CC=C2C1 | C9H11N
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (Indan-2-ylamino)phenylacetic Acid Methyl Ester | quantitative yield | COC(C(C1=CC=CC=C1)NC1CC2=CC=CC=C2C1)=O | C18H19NO2
